US04427665
A mixture of 16.9 g. (0.11 mole) of methyl bromoacetate and 5.0 g. (0.019 mole) of (4-phenylbutyl)phosphonous acid, diethyl ester was heated on a 140°-150° oil bath until distillation of ethyl bromide was detected. An additional 16 g. (0.063 mole) of (4-phenylbutyl)phosphonous acid, diethyl ester was then gradually added to the reaction mixture. Heating was then continued for 45 minutes. After cooling to 100°, excess reagent was removed in vacuo to give 25 g. of crude product (Rf =0.25 silica gel/ethyl acetate). Impurities with higher Rf values were separated by flash chromatography using ethyl acetate. As a result, 18.3 g. of [ethoxy(4-phenylbutyl)phosphinyl]acetic acid, methyl ester were obtained.

reactant | methyl bromoacetate | 0.11 mole | BrCC(=O)OC | C3H5BrO2
reactant | (4-phenylbutyl)phosphonous acid, diethyl ester | 0.019 mole | C1(=CC=CC=C1)CCCCP(OCC)OCC | C14H23O2P
reactant | (4-phenylbutyl)phosphonous acid, diethyl ester | 0.063 mole | C1(=CC=CC=C1)CCCCP(OCC)OCC | C14H23O2P
product | [ethoxy(4-phenylbutyl)phosphinyl]acetic acid, methyl ester | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)OC | C15H23O4P
